US05977178
The dicyclohexylammoniumsalt of (R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(4-fluorophenyl)propionic acid (3.00 g; 10.1 mmol) was dissolved in methylene chloride (30 mL) and washed with an aqueous solution of sodium hydrogen sulfate (10%; 30 mL). The organic phase was dried (magnesium sulfate) and filtered. 1-Hydroxybenzotriazole (1.40 g; 10.1 mmol) and N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (2.0 g; 10.6 mmol) were added to the filtrate and the reaction mixture was stirred for 15 min at room temperature. Methylamine (40% in methanol; 0.75 g; 9.17 mmol) and diisopropylethylamine (1.7 mL; 10.1 mmol) were added and the reaction mixture was stirred for 12 hours at room temperature. The reaction mixture was washed with an aqueous solution of sodium hydrogen carbonate (sat; 50 mL) and an aqueous solution of sodium hydrogen sulfate (10%; 50 mL) and dried (magnesium sulfate). The solvent was removed in vacuo and the residue was chromatographed on silica (3×40 cm) using ethyl acetate/heptane (2:1) as eluent to afford 1.06 g of ((1R)-2-(4-fluorophenyl)-1-(methylcarbamoyl)ethyl)-methylcarbamic acid tert-butylester.

reactant | dicyclohexylammoniumsalt | CCCCC(C(CC[C@H]1[C@@H](CC(=O)[C@@H]1CCCCCCC(=O)O)O)O)(F)F.C1CCC(CC1)NC2CCCCC2
reactant | (R)-2-(N-tert-butoxycarbonyl-N-methylamino)-3-(4-fluorophenyl)propionic acid | 10.1 mmol, 3.00 g | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC=C(C=C1)F | C15H20FNO4
reactant | 1-Hydroxybenzotriazole | 10.1 mmol, 1.40 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 10.6 mmol, 2.0 g | Cl.CN(CCCN=C=NCC)C
reactant | Methylamine | 9.17 mmol, 0.75 g | CN | CH5N
reactant | diisopropylethylamine | 10.1 mmol, 1.7 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | ((1R)-2-(4-fluorophenyl)-1-(methylcarbamoyl)ethyl)-methylcarbamic acid tert-butylester | 1.06 g | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=C(C=C1)F)C(NC)=O)=O | C16H23FN2O3
